US07816558B2
Palladium-carbon was added to a methanol solution of methyl 2-(4-azido-3-cyanophenyl)isonicotinate, and the mixture was stirred in the presence of hydrogen gas at room temperature for 5 hours to obtain methyl 2-(4-amino-3-cyanophenyl)isonicotinate. AP: 254.

reactant | methyl 2-(4-azido-3-cyanophenyl)isonicotinate | N(=[N+]=[N-])C1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C14H9N5O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | [C].[Pd]
solvent | methanol | CO | CH4O
product | methyl 2-(4-amino-3-cyanophenyl)isonicotinate | NC1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C14H11N3O2
